US04153719
4-(2-Chloro-4-methoxystyryl)-2-chlorobenzyl bromide was prepared from 27.8 g. of 2,3'-dichloro-4-methoxy-4'-methylstilbene, 17.8 g. of N-bromosuccinimide and 0.5 g. of benzoyl peroxide in carbon tetrachloride according to the procedure of Example 10(b); yield 23.0 g., m.p. 106°-108° C.

reactant | 2,3'-dichloro-4-methoxy-4'-methylstilbene | ClC1=C(C=CC(=C1)OC)C=CC1=CC(=C(C=C1)C)Cl | C16H14Cl2O
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(2-Chloro-4-methoxystyryl)-2-chlorobenzyl bromide | ClC1=C(C=CC2=CC(=C(CBr)C=C2)Cl)C=CC(=C1)OC | C16H13BrCl2O
